US04558049
To a solution of 19.3 g of 2-bromonitrobenzene in 480 ml of anhydrous tetrahydrofuran cooled to -100° C., 79 ml of 1,6M solution of n-Buli in hexane are dropped under N2. After two hours 10.9 g of 1-methyl-4-piperidone are added and the resulting mixture is stirred eight hours at -100° C. Then 1N hydrochloric acid is added at 0° C. to acidify to pH 2 and the solution is extracted with hexane. The aqueous phase is brought to pH 10 and extracted with ethyl ether. Evaporation of the extracts gives 8.95 g of 1-methyl-4(2-nitrophenyl)-4-hydroxypiperidine, m.p. 166°-167°.

reactant | 2-bromonitrobenzene | 19.3 g | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 1-methyl-4-piperidone | 10.9 g | CN1CCC(CC1)=O | C6H11NO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 480 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-methyl-4(2-nitrophenyl)-4-hydroxypiperidine | 8.95 g | CN1CCC(CC1)(O)C1=C(C=CC=C1)[N+](=O)[O-] | C12H16N2O3
